US06184242B2
To a solution of 4-(5-isopropoxythien-2-ylmethyl)-phenylamine (131 mg, 0.53 mmol) in aceonitrile (8 ml) was added 2-chloro-2-imidazoline sulfate (121 mg, 0.59 mmol) at 20-25° C. under argon. The mixture was heated at 80° C. for 1.5 hours. The mixture was diluted with dichloromethane and washed with sodium hydroxide, water, dried (Na2SO4) and concentrated to dryness. Purification by preparative TLC, eluting with ethyl acetate/methyl alcohol/isopropylamine, gave 2-[4-(5-isopropoxythien-2-ylmethyl)phenyl]amino-imidazoline (150 mg, 90%) as a thick yellow oil; 1H NMR (300 Mhz, CDCl3δ 7.13 (d,J=8.4 Hz, 2H) 6.93 (d,J=8.4 Hz, 2H), 6.37 (dt, J=3.7, 1.0 Hz, 1H), 6.02 (d, J=3.7 Hz, 1H), 4.28 (quintet, J=6.2 Hz, 1H), 3.93 (bs, 2H), 3.52 (5, 4H), 3.24-3.5 (broad, 2H), 1.32 (d, J=6.2 Hz, 6H). MS m/e (%):316 (M+1, 100%).

reactant | 4-(5-isopropoxythien-2-ylmethyl)-phenylamine | 0.53 mmol, 131 mg | C(C)(C)OC1=CC=C(S1)CC1=CC=C(C=C1)N | C14H17NOS
reactant | 2-chloro-2-imidazoline sulfate | 0.59 mmol, 121 mg | S(=O)(=O)(O)O.ClC=1NCCN1
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[4-(5-isopropoxythien-2-ylmethyl)phenyl]amino-imidazoline | 150 mg, 90% | C(C)(C)OC1=CC=C(S1)CC1=CC=C(C=C1)NC=1NCCN1 | C17H21N3OS
